US05994368
To a stirred solution of sodium dihydrogenphosphate dihydrate (788 mg) and 2-methyl-2-butene (885 mg) in tert-butanol (12 ml) and water (3 ml) was added 8-benzyloxy-4-formyl-2-methylquinoline (700 mg) and sodium chloride (79% purity, 457 mg) successively at ambient temperature. After being stirred for one and half an hour, the reaction was quenched with water (12 ml), then the pH of the mixture was adjusted to about 3-4 by addition of 1N hydrochloric acid. The mixture was extracted with chloroform and dried over anhydrous magnesium sulfate. The organic phase was concentrated in vacuo and the residual solid was triturated with diethyl ether to give 8-benzyloxy-4-carboxy-2-methylquinoline (729 mg, 98.5%) as a pale yellow powder.

reactant | sodium dihydrogenphosphate dihydrate | 788 mg | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 885 mg | CC(C)=CC | C5H10
reactant | 8-benzyloxy-4-formyl-2-methylquinoline | 700 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C=O | C18H15NO2
reactant | sodium chloride | 457 mg | [Cl-].[Na+]
solvent | tert-butanol | 12 ml | C(C)(C)(C)O | C4H10O
solvent | water | 3 ml | O | H2O
product | 8-benzyloxy-4-carboxy-2-methylquinoline | 729 mg, 98.5% | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)C(=O)O | C18H15NO3
